US07314937B2
1-[7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinolin-2-yl]-ethanone:
A 5 mL CH2Cl2 solution of 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (175 mg, 0.5 mmol) and NEt3 (0.25 mL, 1.7 mmol) is stirred under N2, a 1 mL CH2Cl2 solution of acetyl chloride (0.043 mL, 0.6 mmol) is added, and reaction is stirred at room temp. for 5-6 hours. Reaction mixture is quenched with MeOH, concentrated and the residue is purified by chromatography (SCX-MeOH wash, elute 2M NH3/MeOH; then (SiO2; 0-10% MeOH/CH2Cl2/1% NH4OH gradient) to give the product (90 mg, 58% yld). MS(ES+)317.1(M+H)+

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.5 mmol, 175 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.7 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.6 mmol, 0.043 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinolin-2-yl]-ethanone | N1(CCCCC1)CCCOC1=CC=C2CCN(CC2=C1)C(C)=O | C19H28N2O2
